US06177452B1
A mixture of methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (5.72 g), thiourea (4.57 g) and ethanol (70 ml) was stirred under reflux for 30 minutes. An aqueous solution of 2N sodium hydroxide (40 ml) was added to the reaction mixture, and stirred under reflux for an additional 30 minutes. Water was added to the reaction mixture, which was then neutralized with 6N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 3-[4-(4-chlorophenyl)-2-thioxo-4-oxazolin-5-yl]propionic acid (5.41 g, yield: 96%). This was recrystallized from ethanol to give colorless needles. mp 196-197° C.

reactant | methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 5.72 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | thiourea | 4.57 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | Water | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-[4-(4-chlorophenyl)-2-thioxo-4-oxazolin-5-yl]propionic acid | 5.41 g, yield: 96% | ClC1=CC=C(C=C1)C=1NC(OC1CCC(=O)O)=S | C12H10ClNO3S
